US08293735B2
To a solution of 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (212 mg, 1.0 mmol) in DCM (4 mL) were added triethylamine (208 μL, 1.5 mmol) and trifluoroacetic anhydride (169 μL, 1.2 mmol) at 0° C. and the mixture stirred at 0° C. for 2 h. The reaction mixture was concentrated in vacuo and the resultant residue was purified by column chromatography to give 3-(2,2,2-trifluoro-acetyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester as a colourless oil. To a solution of 3-(2,2,2-trifluoro-acetyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester in DCM (4 mL) was added TFA (1 mL) and the solution stirred at RT for 1 h. The reaction mixture was concentrated in vacuo to give the title compound as a colourless oil (212 mg, 66%).

reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.0 mmol, 212 mg | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
reactant | triethylamine | 1.5 mmol, 208 μL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.2 mmol, 169 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,2,2-trifluoro-acetyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(C(F)(F)F)=O | C13H19F3N2O3
